US07427683B2
c) 4-Cyano-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carboxylic acid ethyl ester
To a solution of 2-bromo-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-4-carbonitrile (0.55 g, 1.8 mmol) (as prepared in the previous step) in THF (6 mL) at −40° C. was added dropwise a solution of 2M i-PrMgCl in THF (1 mL). The reaction was allowed to stir for 10 min at −40° C. and then cooled to −78° C., and ethyl cyanoformate (0.3 g, 3.0 mmol) was added. The reaction allowed to attain RT and stirred for 1 h. The reaction was quenched with satd aq NH4Cl, diluted with EtOAc (20 mL) and washed with brine (2×20 mL), and the organic layer was dried over Na2SO4 and then concentrated. The title compound was eluted from a 20-g SPE cartridge (silica) with 30% EtOAc/hexane to give 0.40 g (74%) of a colorless oil. Mass spectrum (ESI, m/z): Calcd. for C13H21N3O3Si, 296.1 (M+H), found 296.1.

reactant | 2-bromo-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-4-carbonitrile | 1.8 mmol, 0.55 g | BrC=1N(C=C(N1)C#N)COCC[Si](C)(C)C | C10H16BrN3OSi
reactant | i-PrMgCl | 2M | C(C)(C)[Mg]Cl
reactant | ethyl cyanoformate | 3.0 mmol, 0.3 g | C(#N)C(=O)OCC | C4H5NO2
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 4-Cyano-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carboxylic acid ethyl ester | 0.40 g, 74% | C(C)OC(=O)C=1N(C=C(N1)C#N)COCC[Si](C)(C)C | C13H21N3O3Si
